US06291450B1
Preparation of 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid
3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester (28 mg, 0.054 mmol) is dissolved in 4 ml Dichloro-methane/Trifluoroacetic Acid; 3:1 and stirred for 5 h at room temperature. The solvent/reagent are evaporated and the remaining oil is co-evaporated from Toluene twice. Flash-chromatography, Hexane/Ethylacetate; 1:1 afforded the desired product: Cal. 460.51, found (M)+ 460.9.

reactant | 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | 0.054 mmol, 28 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1NC(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H32N2O7S
solvent | Dichloro-methane Trifluoroacetic Acid | 4 ml | ClCCl.FC(C(=O)O)(F)F
product | 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NC1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C22H24N2O7S
